US08048881B2
360.1. 3-(tert-butyl-dimethyl-silanyloxy)-butane-2-thiol
2,6-lutidine (163 μl) was added to a solution of 3-mercapto-2-butanol (68 mg) in DCM (5 ml) and the mixture was cooled down to −20° C. Tert-butyldimethylsilyl trifluoromethanesulfonate (163 μl) was slowly added and it was stirred 1 h at −20° C. Another 163 μl of the silyl reagent was added and the mixture was allowed to warm to RT and stirred one might at RT. The mixture was evaporated off and used without purification and characterization.

reactant | 2,6-lutidine | 163 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | 3-mercapto-2-butanol | 68 mg | SC(C(C)O)C | C4H10OS
reactant | Tert-butyldimethylsilyl trifluoromethanesulfonate | 163 μl | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyl-dimethyl-silanyloxy)-butane-2-thiol | C(C)(C)(C)[Si](OC(C(C)S)C)(C)C | C10H24OSSi
